US07199244B2
Preparation XXII—chroman-4-ylamine
LAH (6.35 g, 167 mmol) was suspended in THF (100 mL) at 0° C. A solution of chroman-4-one oxime (10.92 g, 66.92 mmol) in THF (100 mL) was added dropwise. The mixture was heated slowly to reflux for 4 h. The reaction was cooled to RT and added drop-wise to a stirred saturated solution of Rochelle's salt in H2O. The bi-phasic mixture was stirred rapidly at RT for 1 h. The layers were separated and the aqueous layer was extracted with EtOAc until tlc analysis of the aqueous layer showed no evidence of the title compound. The combined organics were dried over MgSO4 and concentrated in vacuo to furnish the crude material, which was purified by flash column chromatography to afford the title compound. MS (APCI pos) 150 (M+H).

reactant | LAH | 167 mmol, 6.35 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | chroman-4-one oxime | 66.92 mmol, 10.92 g | O1CCC(C2=CC=CC=C12)=NO | C9H9NO2
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | chroman-4-ylamine | O1CCC(C2=CC=CC=C12)N | C9H11NO
